US08431607B2
A mixture of succinic anhydride (250 mg, 2.50 mmol) and 4-amino-4′-chloro diphenylether (500 mg, 2.27 mml) in toluene is heated to 110° C. for 14 h. and cooled down to room temperature. SOCl2 (1.5 mL) is added into the mixture and stirred at room temperature for 8 h. After the solvent is removed under vacuum, the residue is treated with saturated NaHCO3 aqueous solution (20 mL) and extracted with CHCl3 (3×50 mL). The combined organic layer is washed with brine and dried (MgSO4). After filtering the drying agent, the filtrate is concentrated and purified by flash column chromatography (silica gel, EtOAc/hexane 30%˜80%) to provide 1-[4-(4-chloro-phenoxy)-phenyl]-pyrrolidine-2,5-dione as white solid (570 mg, 83%).

reactant | succinic anhydride | 2.50 mmol, 250 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | 4-amino-4′-chloro diphenylether | 500 mg | C1=CC(=CC=C1N)OC2=CC=C(C=C2)Cl | C12H10ClNO
reactant | SOCl2 | 1.5 mL | O=S(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(4-chloro-phenoxy)-phenyl]-pyrrolidine-2,5-dione | 570 mg, 83% | ClC1=CC=C(OC2=CC=C(C=C2)N2C(CCC2=O)=O)C=C1 | C16H12ClNO3
